US08541411B2
A mixture of methyl 5-(4-morpholinyl)-2-(trifluoromethyl)-1H-benzimidazole-7-carboxylate, prepared as described in Example 45 (1.5 g, 4.56 mmol) and potassium carbonate (1.889 g, 13.67 mmol) in N,N-Dimethylformamide (DMF) (10 mL) was stirred at rt for 10 min. After addition of 1-(bromomethyl)-3-chloro-2-methylbenzene (1.500 g, 6.83 mmol), the mixture was warmed to 80° C. and stirred for 3 h at this temperature. The resulting mixture was cooled to rt and poured over ice. The precipitate formed was collected by filtration and air dried (2.4 g total). Purification on a silica gel column (10-50% EtOAc in hexane) failed to produce pure material. The fractions containing product were combined and the solvent was removed under reduced pressure to afford methyl 1-[(3-chloro-2-methylphenyl)methyl]-6-(4-morpholinyl)-2-(trifluoromethyl)-1H-benzimidazole-4-carboxylate (2.03 g, 4.34 mmol, 95% yield) (only 87% pure). A portion of this material (165 mg) was purified by RP-HPLC (25 to 95% AcCN in water, plus 0.1% TFA) to give pure desired product (92.3 mg, 0.193 mmol, 4.24% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 7.64 (d, J=2.27 Hz, 1H), 7.28-7.43 (m, 2H), 7.04 (t, J=7.96 Hz, 1H), 5.97 (d, J=7.83 Hz, 1H), 5.71 (s, 2H), 3.93 (s, 3H), 3.66-3.80 (m, 4H), 3.06-3.25 (m, 4H), 2.46 (s, 3H). MS (ES+) m/e 468 [M+H]+

reactant | methyl 5-(4-morpholinyl)-2-(trifluoromethyl)-1H-benzimidazole-7-carboxylate | N1(CCOCC1)C1=CC2=C(NC(=N2)C(F)(F)F)C(=C1)C(=O)OC | C14H14F3N3O3
reactant | potassium carbonate | 13.67 mmol, 1.889 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(bromomethyl)-3-chloro-2-methylbenzene | 6.83 mmol, 1.500 g | BrCC1=C(C(=CC=C1)Cl)C | C8H8BrCl
solvent | N,N-Dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | methyl 1-[(3-chloro-2-methylphenyl)methyl]-6-(4-morpholinyl)-2-(trifluoromethyl)-1H-benzimidazole-4-carboxylate | 4.34 mmol, 2.03 g, 95% yield | ClC=1C(=C(C=CC1)CN1C(=NC2=C1C=C(C=C2C(=O)OC)N2CCOCC2)C(F)(F)F)C | C22H21ClF3N3O3
